US07365070B2
A solution of 2-methyl-2-thiopseudourea sulfate (1.6 g, 5.75 mmol, 2.5 equiv) in 1N NaOH (10 mL) was cooled to 0° C. To this solution was added dropwise a solution of 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoyl chloride (2.3 mmol, 1 equiv) in diethyl ether (4 mL). The solution was allowed to stir for 3.5 hr and then diluted with H2O. The aqueous solution was extracted with dichloromethane and the combined organic phases were dried over Na2SO4, filtered, and concentrated to give 1-{2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoyl}-2-methylisothiourea in quantitative yield. The crude product was used without further purification. 1H NMR (300 MHz, CDCl3) δ 7.72 (d, J=7.2 Hz, 1H), 7.07-7.30 (m, 4H), 6.68 (d, J=8.1 Hz, 1H), 3.73 (s, 3H), 3.27-3.33 (m, 2H), 2.84-2.90 (m, 2H), and 2.52 (s, 3H).

reactant | 2-methyl-2-thiopseudourea sulfate | 5.75 mmol, 1.6 g, 2.5 equiv | S(=O)(=O)(O)O.CSC(N)=N
reactant | 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoyl chloride | 2.3 mmol, 1 equiv | BrC=1C=CC(=C(C1)CCC1=C(C(=O)Cl)C=CC=C1F)OC | C16H13BrClFO2
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
solvent | H2O | O | H2O
product | 1-{2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoyl}-2-methylisothiourea | quantitative yield | BrC=1C=CC(=C(C1)CCC1=C(C(=O)NC(SC)=N)C=CC=C1F)OC | C18H18BrFN2O2S
